US08703784B2
To 5-(4-methylenecyclohexyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine (4.60 g, 9.41 mmol) in dioxane (50 mL) was added OsO4 (2.5 w % in tBuOH, 5 mol %), 2,6-Lutidine (4.37 mL, 37.6 mmol) and H2O (10 mL). The resulting mixture was stirred at room temperature for 20 min, then NaIO4 (8.05 g, 37.6 mmol) was added and the reaction mixture was stirred at room temperature overnight. LCMS showed very good conversion to the desired product (491). Na2S2O3 (sat.) was added and the mixture was stirred for 10 min. Dioxane was removed and the residue was extracted with EtOAc, washed with H2O and brine, dried over Na2SO4, and concentrated. The crude product was purified by a SiO2 column (0-40% EtOAc/Hexanes, Rf=0.15 in 20% EtOAc) to afford 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)cyclohexanone as a colorless oil (3.37 g, 73%).

reactant | 5-(4-methylenecyclohexyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine | 9.41 mmol, 4.60 g | C=C1CCC(CC1)C1=NC=2N(C(=C1)N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)N=CC2 | C25H44N4O2Si2
reactant | 2,6-Lutidine | 37.6 mmol, 4.37 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | H2O | 10 mL | O | H2O
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | OsO4 | O=[Os](=O)(=O)=O
product | 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)cyclohexanone | 3.37 g, 73% | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2)C2CCC(CC2)=O)COCC[Si](C)(C)C)(C)C | C24H42N4O3Si2
